US04735959
4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid
A quantity of 0.46 gm (1 mmol) of 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid benzyl ester in 20 ml of ethanol was hydrogenated at 0.25 gm of palladium/charcoal at 50° C. and a hydrogen pressure of 5 bar. After five hours the catalyst was filtered off over celite, and the filtrate was evaporated in vacuo. The evaporation residue was recrystallized from ethanol/water (8:2).

reactant | 4-[(1-(2-piperidino-phenyl)-ethyl)-aminocarbonylmethyl]-benzoic acid benzyl ester | 1 mmol, 0.46 gm | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C(C(=O)N)C(C)C1=C(C=CC=C1)N1CCCCC1)=O | C29H32N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 0.25 gm | [Pd] | Pd
product | 4-[(1-(2-Piperidino-phenyl)-1-ethyl)-aminocarbonylmethyl]-benzoic acid | N1(CCCCC1)C1=C(C=CC=C1)C(C)C(C1=CC=C(C(=O)O)C=C1)C(=O)N | C22H26N2O3
